US08420655B2
Isopropyl-carbamic acid 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-phenyl ester
To a stirred solution of 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-phenol (100 mg, 0.23 mmol) in THF (3 mL) is added potassium carbonate (65 mg, 0.47 mmol) followed by isopropyl isocyanate (25 ul, 0.26 mmol). The resulting mixture is stirred at room temperature for 3 hours and then is warmed to 60° C. for 18 hours. The reaction is cooled to room temperature, poured into water and the product extracted into EtOAc (2×10 mL). The combined organics are dried with MgSO4 (500 mg), filtered, and concentrated. The remaining residue is purified by silica gel flash column chromatography (12 g silica gel, 0-5% MeOH/DCM). Product-containing fractions are combined and concentrated to give the title compound (15 mg, 13%). LCMS (ESMS): m/z 512.5 (M++1)

reactant | 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-phenol | 0.23 mmol, 100 mg | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C=CC2N2N=CN=C2)O)C(C)(C)C)C=C1 | C23H22N8O
reactant | potassium carbonate | 0.47 mmol, 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isocyanate | 0.26 mmol, 25 ul | C(C)(C)N=C=O | C4H7NO
reactant | water | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | Isopropyl-carbamic acid 3-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-1,2,4-triazol-1-yl-phenyl ester | 15 mg, 13% | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C=2C=C(C=CC2N2N=CN=C2)OC(NC(C)C)=O)C(C)(C)C)C=C1 | C27H29N9O2
